US07939528B2
4-(Formylamino)-3-nitrophenyl acetate (13.5 g, 60.3 mmol, split into 1 g, 5 g, and 7.5 g batches) was dissolved in a minimal amount of ethyl acetate. The solution was hydrogenated over 10% Pd on carbon (wet, degussa type) on a Parr hydrogenator at 40 PSI of H2 for 1 hour. The catalyst was removed by filtering the reaction through Celite. The filtrate was concentrated to give 10.3 g of 3-amino-4-(formylamino)phenyl acetate. (M+1) 195.1, 1.31 min (LC/MS method A)

reactant | 4-(Formylamino)-3-nitrophenyl acetate | 60.3 mmol, 13.5 g | C(C)(=O)OC1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C9H8N2O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | [Pd] | Pd
product | 3-amino-4-(formylamino)phenyl acetate | 10.3 g | C(C)(=O)OC1=CC(=C(C=C1)NC=O)N | C9H10N2O3
